US09144239B2
Preparation of 2-(((3S,7S,8S,9S)-7,8-bis(4-fluorophenoxy)-9-methyl-2-oxo-1,5-dioxonan-3-yl)carbamoyl)-4-methoxypyridin-3-yl acetate (compound 229)
To a solution of N-((3S,7S,8S,9S)-7,8-bis(4-fluorophenoxy)-9-methyl-2-oxo-1,5-dioxonan-3-yl)-3-hydroxy-4-methoxypicolinamide (54 mg, 0.099 mmol) in DCM (0.5 mL) was added TEA (0.028 mL, 0.198 mmol), DMAP (6.1 mg, 0.050 mmol), and acetyl chloride (0.011 ml, 0.149 mmol). The reaction was warmed to 40° C. for and stirred for 14 h. The reaction was then concentrated and the crude residue purified by flash chromatography (SiO2, EtOAc/Hexanes) to give the title compound as a white foam (46.5 mg, 80%): IR (thin film) 3372, 2939, 1765, 1676 cm−1; 1H NMR (400 MHz, CDCl3) δ 8.78 (d, J=8.2 Hz, 1H), 8.37 (d, J=5.4 Hz, 1H), 7.03 (d, J=5.5 Hz, 1H), 6.98-6.86 (m, 6H), 6.74-6.61 (m, 2H), 5.33-5.24 (m, 1H), 5.14 (m, 1H), 4.36 (t, J=9.2 Hz, 1H), 4.30-4.22 (m, 1H), 4.10-3.99 (m, 2H), 3.92 (s, 3H), 3.92-3.87 (m, 1H), 3.79 (dd, J=11.2, 7.3 Hz, 1H), 2.40 (s, 3H), 1.48 (d, J=6.4 Hz, 3H); HRMS-FAB (m/z) [M+H]+ calcd for C29H28F2N2O9, 587.1836; found, 587.1838.

reactant | N-((3S,7S,8S,9S)-7,8-bis(4-fluorophenoxy)-9-methyl-2-oxo-1,5-dioxonan-3-yl)-3-hydroxy-4-methoxypicolinamide | 0.099 mmol, 54 mg | FC1=CC=C(O[C@H]2COC[C@@H](C(O[C@H]([C@@H]2OC2=CC=C(C=C2)F)C)=O)NC(C2=NC=CC(=C2O)OC)=O)C=C1 | C27H26F2N2O8
reactant | acetyl chloride | 0.149 mmol, 0.011 ml | C(C)(=O)Cl | C2H3ClO
solvent | DCM | 0.5 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 0.050 mmol, 6.1 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | 2-(((3S,7S,8S,9S)-7,8-bis(4-fluorophenoxy)-9-methyl-2-oxo-1,5-dioxonan-3-yl)carbamoyl)-4-methoxypyridin-3-yl acetate | 46.5 mg, 80% | C(C)(=O)OC=1C(=NC=CC1OC)C(N[C@@H]1C(O[C@H]([C@@H]([C@H](COC1)OC1=CC=C(C=C1)F)OC1=CC=C(C=C1)F)C)=O)=O | C29H28F2N2O9
